US07691879B2
1-(1H-imidazol-1-yl)-6-methoxy-4-phenylisoquinoline-3-carbonitrile
To a solution of imidazole (15 mg) in 2 mL DME was added NaH (12 mg, 60% dispersion in mineral oil); a precipitate formed immediately. The mixture was stirred at room temp for 5 min, then heated to 75 C. A solution of 1-chloro-4-phenyl-6-methoxyisoquinoline-3-carbonitrile (60 mg) in 1 mL DME was added via cannula. Heating continued at 75 C for 45 min. The reaction was cooled to room temp and quenched by adding a few drops of water, then partitioned between saturated aqueous sodium bicarbonate and EtOAc. The organic solution was washed with brine (1×), dried over MgSO4 and concentrated. Flash chromatography (0% to 10% MeOH (10% NH4OH) in EtOAc) gave a white solid.

reactant | imidazole | 15 mg | N1C=NC=C1 | C3H4N2
reactant | NaH | 12 mg | [H-].[Na+]
reactant | 1-chloro-4-phenyl-6-methoxyisoquinoline-3-carbonitrile | 60 mg | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C17H11ClN2O
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | DME | 1 mL | COCCOC | C4H10O2
product | 1-(1H-imidazol-1-yl)-6-methoxy-4-phenylisoquinoline-3-carbonitrile | N1(C=NC=C1)C1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C20H14N4O
